US07767664B2
4,5-Dimethoxy-2-[(4-ethoxy-1,4-dioxobutyl)amino]benzoic acid ethyl ester
A solution of ethyl succinyl chloride (1.284 g, 5.7 mmol) in toluene (15 ml) was added dropwise to a cooled solution of 2-amino-4,5-dimethoxybenzoic acid ethyl ester (1.240 g, 7.4 mmol) and pyridine (0.67 ml) in toluene (1 ml) with stirring under nitrogen. The resulting suspension was stirred for 4 hours at 20° C. and water (13 ml) and dichloromethane then added. The organic phase was washed with hydrochloric acid (10%) and aqueous sodium carbonate solution (5%), dried (sodium sulfate) and evaporated. The residue was crystallised from ethanol to yield the title compound (1.42 g, yield 70%) as colourless crystals, mp 125° C.; 1H-NMR (DMSO-d6, 300 MHz): δ (ppm)=11.26 (br s; 1 H), 8.43 (s; 1H), 7.46 (s; 1H), 4.39 (q, 2H), 4.18 (q, 2H), 3.92 (s, 3H), 3.87 (s; 3H), 2.75 (m; 4H), 1.42 (t, 3H), 1.23 (t, 3H).

reactant | ethyl succinyl chloride | 5.7 mmol, 1.284 g | C(C)C(C(=O)Cl)CC(=O)Cl | C6H8Cl2O2
reactant | 2-amino-4,5-dimethoxybenzoic acid ethyl ester | 7.4 mmol, 1.240 g | C(C)OC(C1=C(C=C(C(=C1)OC)OC)N)=O | C11H15NO4
reactant | pyridine | 0.67 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 13 ml | O | H2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4,5-Dimethoxy-2-[(4-ethoxy-1,4-dioxobutyl)amino]benzoic acid ethyl ester | 1.42 g, yield 70% | C(C)OC(C1=C(C=C(C(=C1)OC)OC)NC(CCC(=O)OCC)=O)=O | C17H23NO7
